US08124629B2
Potassium iodide (5.6 g, 34 mmol) and sodium nitrite (2.4 g, 35 mmol) were added to a solution of 2-amino-4-trifluoromethyl-benzonitrile (2.58 g, 14 mmol) in acetonitrile (60 mL). The resultant mixture was cooled to 0° C. in an ice-water bath with magnetic stirring. Ice-cold concentrated HCl (14 mL) was added slowly drop-wise to the reaction mixture, causing the reaction mixture to become cloudy and deep red in color. The reaction mixture was stirred at 0° C. for 30 minutes, then warmed to room temperature. Stirring at room temperature proceeded for 3 hours. The reaction mixture was poured into water, and the resulting suspension was extracted with ethyl acetate. The organic layer was dried (Na2SO4), filtered, and concentrated to give a purple liquid. A solution of this crude product and dichloromethane (200 mL) was evaporated onto silica gel, and the dry silica gel-supported product was loaded onto a silica gel column. Manual flash chromatography using 5% ethyl acetate in hexanes afforded 2-iodo-4-trifluoromethyl-benzonitrile as 3.58 g (87%) of a purple, crystalline solid.

reactant | Potassium iodide | 34 mmol, 5.6 g | [I-].[K+]
reactant | sodium nitrite | 35 mmol, 2.4 g | N(=O)[O-].[Na+]
reactant | 2-amino-4-trifluoromethyl-benzonitrile | 14 mmol, 2.58 g | NC1=C(C#N)C=CC(=C1)C(F)(F)F | C8H5F3N2
reactant | water | O | H2O
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
product | 2-iodo-4-trifluoromethyl-benzonitrile | IC1=C(C#N)C=CC(=C1)C(F)(F)F | C8H3F3IN
